US06172066B2
a) 2-[4-Phenylcyclohexylimino]ethylamine (Scheme 5; Step A)
A mixture of 4-phenylcyclohexanone (4.00 g, 22.96 mmol) and ethylenediamine (1.66 g, 27.5 mmol) and p-toluenesulfonic acid (437 mg) in benzene (200 mL) was refluxed for 4 h in Dean-Stark trap to remove the water that formed. Tlc analysis indicated the completion of the reaction. Solvent was evaporated and the product was used in the next step without any further purification.

reactant | 4-phenylcyclohexanone | 22.96 mmol, 4.00 g | C1(=CC=CC=C1)C1CCC(CC1)=O | C12H14O
reactant | ethylenediamine | 27.5 mmol, 1.66 g | C(CN)N | C2H8N2
reactant | p-toluenesulfonic acid | 437 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 200 mL | C1=CC=CC=C1 | C6H6
product | 2-[4-Phenylcyclohexylimino]ethylamine | C1(=CC=CC=C1)C1CCC(CC1)N=CCN | C14H20N2
